2146-12-08 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2146-12-7**] 07:24 PM
 EKG - At [**2146-12-8**] 03:30 AM
   - Patient mildly delerious with small dose of haldol/ativan
   - Required restraints o/n to keep O2 on and lines in
   - AOx3 this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-7**] 10:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-8**] 07:51 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-12-8**] 12:00 AM
   Haloperidol (Haldol) - [**2146-12-8**] 02:28 AM
   Pantoprazole (Protonix) - [**2146-12-8**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 80 (80 - 101) bpm
   BP: 111/75(83) {78/40(51) - 134/105(109)} mmHg
   RR: 27 (21 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,042 mL
                                                                    852 mL
   PO:
             TF:
   IVF:
                                                                    250 mL
                                                                    190 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    250 mL
                                                                    680 mL
   Urine:
                                                                    250 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    792 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 98%
   ABG: 7.60/24/60/24/2
   PaO2 / FiO2: 100
   Physical Examination
   General: Alert, oriented x3, mild respiratory distress, but able to
   calm down at times suggesting anxiety
   HEENT: Sclera anicteric, MM dry
   CV: RRR, s1 + s2, no murmurs, rubs, gallops
   Lungs: course breath sounds bilaterally, no wheezes, rales or ronchi
   GI: soft, NT/ND, + bowel sounds
   Ext: edematous, palpable DP and PT pulses bilaterally, no clubbing or
   cyanosis
   Neurologic: tremor bilaterally
   Skin: stage II sacral decubitous ulcer
   Rectal: grossly guaiac positive bloody stool
   Labs / Radiology
   120 K/uL
   8.9 g/dL
   146 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   54 mg/dL
   113 mEq/L
   143 mEq/L
   26.1 %
   3.9 K/uL
        [image002.jpg]
                            [**2146-12-7**]  07:13 PM
                            [**2146-12-7**]  09:44 PM
                            [**2146-12-8**]  03:58 AM
                            [**2146-12-8**]  04:05 AM
   WBC
   3.9
   3.9
   Hct
   25.3
   28
   26.1
   Plt
   116
   120
   Cr
   0.8
   0.7
   TropT
   <0.01
   TCO2
   25
   24
   Glucose
   95
   95
   146
   Other labs: PT / PTT / INR:22.5/33.9/2.2, CK / CKMB /
   Troponin-T:46/4/<0.01, Differential-Neuts:75.0 %, Band:13.0 %,
   Lymph:7.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.6 mmol/L, Ca++:7.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive therapy, coronary artery disease and
   non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   Hypoxia: Worsening over the past three days.  Imaging suggestive of
   multifocal pneumonia likely from aspiration.  Of concern, patient has
   been on high dose steroids for the past month.  No evidence of large
   pulmonary embolism on CT scan.  Cardiac enzymes not elevated.  Likely
   worsened by anemia.  Currently maintaining oxygen saturations with 50%
   face tent.  Not using accessory muscles currently.  ABG with
   respiratory alkalosis.  Although patient with evidence of anasarca, do
   not feel that pulmonary edema is large component of his current
   presentation.
   - vancomycin and zosyn for health care associated pneumonia
   - continue albuterol and ipratropium for known emphysema
   - sputum culture
   - induced sputum for PCP, [**Name10 (NameIs) 72**] culture, AFB
   - NPO pending speech and swallow evaluation
   - repeat EKG and cardiac enzymes
   - repeat CXR today
   Hydropneumothorax:  Noted on recent CT scan.  Concern for bronchial
   stump leak.  Surgery not performed here.
   - will consult with thoracis regarding finding
   Presumed Ulcerative Colitis:  Per notes continues to have [**2-13**] bloody
   bowel movements per day without significant improvement since
   presentation.  Sigmoidoscopy on [**12-1**] with persistent severe
   inflammation.  Now on methylprednisolone 10 mg IV TID.  No longer on
   cyclosporin. Patient with significant malnutrition and anasarca.
   - continue methylprednisolone 10 mg IV TID
   - appreciate GI recs
   - continue TPN
   - NPO for now given concern for aspiration
   - GI surgery following
   - c. diff negative most recently on [**12-3**]
   Acute Blood Loss Anemia:  Patient with known gastrointestinal bleeding
   and witnessed blood loss from pulling out PICC in the setting of
   elevated INR yesterday.  Now s/p 2 units of PRBC with hematocrit
   increase from only 21.3 to 25.3.
   - active type and screen
   - currently PICC line and 1 22 g IV, will obtain additional peripheral
   access
   - repeat hematocrit tonight
   - GI following
   DV: Incidental finding of right sided lower extremity DVT.  INR
   currently 2.4.  Currently hemodynamically stable but in the setting of
   gastrointestinal bleeding will hold coumadin for now and let INRtrend
   down.  If persistent bleeding, would consider IVC filter.
   - holding coumadin
   - if hematocrit stable, start heparin when subtherapeutic
   - if persistent bleeding consider IVC filter
   Stage II sacral/buttock decubitus: In the setting of poor nutrition,
   hypoalbuminemia and bedrest.
   - continue TPN for nutrition
   - holding PO meds (vitamin C, zinc)
   - wound care
   Hypothyroidism: Home dose is synthroid PO 88 mcg daily
   - IV synthroid 50 mcg daily
   CAD s/p MI: No chest pain or new EKG changes currently.  Troponins
   flat.
   - holding aspirin, beta blocker (given NPO)
   - statin held during this admission [**2-12**] low LDL, malnutrition
   NSCLC s/p resection: As above, concern for bronchial stump leak.
   Otherwise no active issues.
   Prostate Cancer:  s/p prostatectomy. CT with sclerotic/lucent lesions
   in vertebral bodies but bone scan okay.
   - outpatient oncology followup
   Type II Diabetes:
   - receives 37 units regular insulin in TPN
   - TID sliding scale
   Access: PICC line, 1 22 g IV
   Prophylaxis: SC heparin, protonix
   FEN: NPO, speech and swallow consult pending, monitor electrolytes,
   continue TPN
   Code:  Full Code (discussed with patient).
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-7**] 07:00 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   22 Gauge - [**2146-12-8**] 04:31 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2146-12-08 09:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   history reviewed. transferred because of hypoxemic respiratory failure
   24 Hour Events:
 PICC LINE - START [**2146-12-7**] 07:24 PM
 EKG - At [**2146-12-8**] 03:30 AM
   Somewhat confused, received ativan earlier
   Bloody stools on rectal exam
   NC and FM O2
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-8**] 07:51 AM
   Vancomycin - [**2146-12-8**] 08:23 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-12-8**] 12:00 AM
   Haloperidol (Haldol) - [**2146-12-8**] 02:28 AM
   Pantoprazole (Protonix) - [**2146-12-8**] 07:54 AM
   Other medications:
   solumedrol 10mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-8**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 99 (80 - 101) bpm
   BP: 102/68(76) {78/40(51) - 134/105(109)} mmHg
   RR: 27 (21 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,042 mL
                                                                  1,142 mL
   PO:
             TF:
   IVF:
                                                                    250 mL
                                                                    399 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    250 mL
                                                                    910 mL
   Urine:
                                                                    250 mL
                                                                    790 mL
   NG:
   Stool:
   120 mL
   Drains:
   Balance:
                                                                    792 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.60/24/60/24/2
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse sounds bilat
   Skin:  Not assessed, sacral decub ulcers
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   120 K/uL
   146 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.2 mEq/L
   54 mg/dL
   113 mEq/L
   143 mEq/L
   26.1 %
   3.9 K/uL
        [image002.jpg]
                            [**2146-12-7**]  07:13 PM
                            [**2146-12-7**]  09:44 PM
                            [**2146-12-8**]  03:58 AM
                            [**2146-12-8**]  04:05 AM
   WBC
   3.9
   3.9
   Hct
   25.3
   28
   26.1
   Plt
   116
   120
   Cr
   0.8
   0.7
   TropT
   <0.01
   TCO2
   25
   24
   Glucose
   95
   95
   146
   Other labs: PT / PTT / INR:22.5/33.9/2.2, CK / CKMB /
   Troponin-T:46/4/<0.01, Differential-Neuts:75.0 %, Band:13.0 %,
   Lymph:7.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.6 mmol/L, Ca++:7.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CT chest reviewed
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   Hx of UC vs colitis, CAD, NSCLC s/p vats, DVT, hypothyroidism, prostate
   ca
   1) hypoxic respiratory failure
   Has baseline severe emphysema, recent VATS surgery and probable
   aspiration pneumonia
   Keep NPO, speech and swallow eval pending
   Continue with vanc/zosyn
   Doubt PCP.
   2) hydropneumothorax
   likely all related to recent surgery. Appreciate Dr[**Name (NI) 3967**]
   input.
   3) Anemia
   likely GI bleeding
   4) Colitis
   Scoped, severe, TPN for now. will reevalute once more stable
   5) elevated BUN - likely upper GI bleed and steroids
   Improving
   6) decubitus ulcer
   7) NSCLC - need to f/u on path and cultures
   NOK is wife.
   ICU [**Name2 (NI) 81**]
   Nutrition:
   TPN w/ Lipids - [**2146-12-7**] 07:00 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   22 Gauge - [**2146-12-8**] 04:31 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-12-09 06:16:00 Physician Resident Progress Note
Chief Complaint: SOB, Colitis
   24 Hour Events:
   Discussed oxygen requirement with  Thoracics; NTD at this time
   Pt had 2x bloody stools with  HCT dropp from 26
22.  Ordered 2 units of
   blood.
   OSH reports obtained and demonstrated T2N0 poorly differentiated adeno
   of his left lung.
   Speech and swallow eval suggested PO challenge.  Pt was written for
   clears then had witnessed aspiration event overnight.  O2 requirement
   increased for several hours to high flow 95% (from 60%).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-8**] 08:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-9**] 12:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-8**] 07:54 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies chest pain, abdominal pain, feels
   comfortable breathing, no complaints.
   Vital signs
   Flowsheet Data as of  [**2146-12-9**] 06:15 AM
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 102 (80 - 110) bpm
   BP: 112/59(72) {82/44(57) - 135/119(124)} mmHg
   RR: 29 (18 - 35) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
              Total In:
                                                                  3,862 mL
                                                                    897 mL
   PO:
              TF:
              IVF:
                                                                  2,298 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    490 mL
   Urine:
                                                                  2,360 mL
                                                                    490 mL
   NG:
   Stool:
                                                                    120 mL
   Drains:
   Balance:
                                                                  1,382 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.57/26/139/23/3
   PaO2 / FiO2: 146
   Physical Examination
   GEN: tremulous, NAD
   HEENT:  MM mildly dry, PERRL
   CV: RRR, s1/s2, no murmur
   PULM: faint bibasilar rales, R>L no wheezes.
   ABD: + bs, soft, nt, nd
   EXT: 2+ radial, 1+ pedal pulses.  Trace LE edema
   Neuro: Alert to self,
, [**Month (only) 2139**]
   Labs / Radiology
   105 K/uL
   7.7 g/dL
   108 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   38 mg/dL
   118 mEq/L
   148 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]
                            [**2146-12-7**]  07:13 PM
                            [**2146-12-7**]  09:44 PM
                            [**2146-12-8**]  03:58 AM
                            [**2146-12-8**]  04:05 AM
                            [**2146-12-8**]  01:52 PM
                            [**2146-12-8**]  08:48 PM
                            [**2146-12-9**]  03:15 AM
                            [**2146-12-9**]  04:42 AM
   WBC
   3.9
   3.9
   4.5
   5.1
   Hct
   25.3
   28
   26.1
   24.6
   25.1
   22.7
   Plt
   116
   120
   105
   105
   Cr
   0.8
   0.7
   0.7
   TropT
   <0.01
   TCO2
   25
   24
   25
   Glucose
   95
   95
   146
   108
   Other labs: PT / PTT / INR:18.5/32.4/1.7, CK / CKMB /
   Troponin-T:46/4/<0.01, Differential-Neuts:75.0 %, Band:13.0 %,
   Lymph:7.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Ca++:6.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive therapy, coronary artery disease and
   non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   Hypoxia/Possible PNA: Required 95% high flow after witnessed aspiration
   but now back to 60%; previous CT consistant with multifocal pneumonia
   and aspiration.  Also concern for immunosuppressed state given chronic
   steroid use.  ABG with continued respiratory alkalosis.
   - consider switch vanc/Zosyn for HAP/Aspiration PNA
   - continue albuterol and ipratropium for known emphysema
   - attempt to obtain sputum culture
   - watch for fatigue given continued respiratory distress.
   Presumed Ulcerative Colitis:  continue w/ bloody bowel movement with
   HCT drop.
   - 2 units RBC this am
   - q8 HCT checks
   - continue methylprednisolone 10 mg IV TID
   - GI following
   - continue TPN
   - GI surgery following
   Acute Blood loss: continues slow GI bleed as above; no evidence of
   additional souce of bleeding
   - active type and screen
   - q8 HCT checks
   DVT: Left femoral vein DVT and had been on coumadin.  INR elevated but
   trending down (1.7)
   - continue to hold coumadin
   - if hematocrit stable, start heparin when subtherapeutic
   - if persistent bleeding consider IVC filter
   NSCLC s/p resection/Hydropneumothorax:  Stable.  Appreciate throacics
   input; NTD at this time.
   - continue to monitor
   Stage II sacral/buttock decubitus:
   - continue TPN for nutrition
   - holding PO meds (vitamin C, zinc)
   - wound care
   CAD s/p MI:  frequent PVCs and tachycardia on telemetry.  Likely due to
   respiratory distress and anemia.
   - continue telemetry
   - holding aspirin
   - consider restarting beta blocker use if BP stable
   - statin held during this admission [**2-12**] low LDL, malnutrition
   Type II Diabetes:  37 units regular insulin in TPN; TID sliding scale
   Access: PICC line, 1 22 g IV
   Prophylaxis: Boots, protonix
   FEN: NPO as pt had witnessed aspiration event overnight.
   - reconsult speech and swallow
   - monitor electrolytes
   - continue TPN
   Code:  Full Code (discussed with patient).
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:  Fingerstick qid, ISS
   Lines:   PICC Line - [**2146-12-7**] 07:24 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   Code status: Full code

2146-12-09 08:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 74 yr old recent VATS lobectomy for poorly diff adenoca, admitted
   with hypoxic resp failure
   24 Hour Events:
   Yesterday had two bloody stools, Hct 26
 22, being transfused 2 units
   PRBC
   Reports from path showed T2N0 poorly diff adenoca
   Started on PO fluids but coughed on water and desaturated, O2
   requirements increased transiently
   Sats drop with movement
                   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-8**] 08:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-9**] 07:28 AM
   Infusions:
   Other ICU medications:
   Other medications: PPI, solumedrol 10mg q8h, nebs, ISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-9**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 100 (95 - 110) bpm with PVCs
   BP: 95/47(60) {82/44(57) - 135/119(124)} mmHg
   RR: 28 (18 - 35) insp/min
   SpO2: 92% on HF mask 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  3,862 mL
                                                                  1,326 mL
   PO:
           TF:
   IVF:
                                                                  2,298 mL
                                                                  1,034 mL
   Blood products:
   292 mL
   Total out:
                                                                  2,480 mL
                                                                    490 mL
   Urine:
                                                                  2,360 mL
                                                                    490 mL
   NG:
   Stool:
                                                                    120 mL
   Drains:
   Balance:
                                                                  1,382 mL
                                                                    836 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.57/26/139/23/3
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: awake, alert
   Head, Ears, Nose, Throat: Normocephalic
   Chest- few crackles at bases
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: PPP
   Abdominal: Soft
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   105 K/uL
   108 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   38 mg/dL
   118 mEq/L
   148 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]
                            [**2146-12-7**]  07:13 PM
                            [**2146-12-7**]  09:44 PM
                            [**2146-12-8**]  03:58 AM
                            [**2146-12-8**]  04:05 AM
                            [**2146-12-8**]  01:52 PM
                            [**2146-12-8**]  08:48 PM
                            [**2146-12-9**]  03:15 AM
                            [**2146-12-9**]  04:42 AM
   WBC
   3.9
   3.9
   4.5
   5.1
   Hct
   25.3
   28
   26.1
   24.6
   25.1
   22.7
   Plt
   116
   120
   105
   105
   Cr
   0.8
   0.7
   0.7
   TropT
   <0.01
   TCO2
   25
   24
   25
   Glucose
   95
   95
   146
   108
   Other labs: PT / PTT / INR:18.5/32.4/1.7, CK / CKMB /
   Troponin-T:46/4/<0.01, Differential-Neuts:75.0 %, Band:13.0 %,
   Lymph:7.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Ca++:6.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Hx of UC vs colitis, CAD, NSCLC s/p vats, DVT, hypothyroidism, prostate
   ca
   1) hypoxic respiratory failure
   Will likely require intubation but will diurese, consider NPPV and
   reassess
   Has baseline severe emphysema, recent VATS surgery and very likely
   aspiration pneumonia
   Keep NPO. Speech and swallow eval put on hold as failed PO fluids with
   worsening hypoxia
   Continue with vanc/zosyn, doubt PCP, [**Name10 (NameIs) **] unlikely PE. Has baseline
   severe emphysema on CT.
   2) hydropneumothorax
   likely all related to recent surgery. Appreciate Dr[**Name (NI) 3967**]
   input.
   3) Anemia with acute blood loss likely due to colitis
   likely acute GI bleed, continue with IV PPI
   4) Colitis
   Severe by recent c-scope, TPN for now. GI involved and will reevalute
   once more stable
   5) elevated BUN
 likely due to upper GI bleed and steroids
   6) decubitus ulcer
 continue with wound care
   7) NSCLC
 stage 1B poorly diff adenoca, no CT evidence of mets
   NOK is wife. Goals of care were discussed with patient. At the moment,
   he wishes to be full code and would agree to a tracheostomy if neeed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-12-10 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Thoracics: No recs; GI: No recs
   - Hct stable at 28
   - Appeared tenuous on 90% hi-flow face mask with ABG 7.55/25/78
   - received lasix 20 IV times 2 - was negative 200 at 3am (put out to
   lasix but received alot of fluid in abx and lyte repletion)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-9**] 08:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-9**] 11:56 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-12-9**] 06:31 PM
   Pantoprazole (Protonix) - [**2146-12-9**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-10**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 107 (92 - 120) bpm
   BP: 141/51(69) {90/27(44) - 141/103(112)} mmHg
   RR: 27 (19 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,879 mL
                                                                    591 mL
   PO:
             TF:
   IVF:
                                                                  2,703 mL
                                                                     63 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                  3,890 mL
                                                                    980 mL
   Urine:
                                                                  3,890 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 98%
   ABG: 7.55/25/77.[**Numeric Identifier 143**]/24/0
   PaO2 / FiO2: 82
   Physical Examination
   GEN: tremulous, NAD
   HEENT:  MM mildly dry, OP with dried blood/? ulcerations, PERRL
   CV: RRR, s1/s2, no murmur
   PULM: faint bibasilar rales, R>L no wheezes.
   ABD: + bs, soft, nt, nd
   EXT: 2+ radial, 1+ pedal pulses.  Trace LE edema
   Neuro: Alert to self,
, [**Month (only) 2139**]
   Labs / Radiology
   87 K/uL
   9.8 g/dL
   115 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   40 mg/dL
   114 mEq/L
   143 mEq/L
   28.6 %
   5.8 K/uL
        [image002.jpg]
                            [**2146-12-8**]  03:58 AM
                            [**2146-12-8**]  04:05 AM
                            [**2146-12-8**]  01:52 PM
                            [**2146-12-8**]  08:48 PM
                            [**2146-12-9**]  03:15 AM
                            [**2146-12-9**]  04:42 AM
                            [**2146-12-9**]  03:19 PM
                            [**2146-12-9**]  08:23 PM
                            [**2146-12-9**]  10:31 PM
                            [**2146-12-10**]  03:40 AM
   WBC
   3.9
   4.5
   5.1
   5.8
   Hct
   28
   26.1
   24.6
   25.1
   22.7
   28.7
   28.4
   28.6
   Plt
   120
   105
   105
   87
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   24
   25
   23
   Glucose
   146
   108
   354
   115
   Other labs: PT / PTT / INR:17.7/31.3/1.6, CK / CKMB /
   Troponin-T:46/4/<0.01, Differential-Neuts:86.0 %, Band:7.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Ca++:6.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive  therapy, coronary artery disease
   and non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   Hypoxia/Possible PNA: Requiring 95% high flow; previous CT consistant
   with multifocal pneumonia and aspiration.  Also concern for
   immunosuppressed state given chronic steroid use.  ABG with continued
   respiratory alkalosis and hypoxia.
   - Continue vanc/Zosyn (started [**2146-12-7**]) for HAP/Aspiration PNA
   - continue albuterol and ipratropium for known emphysema
   - watch for fatigue given continued respiratory distress.
   Presumed Ulcerative Colitis:  continue w/ bloody bowel movement with
   HCT drop.
   - 2 units RBC yesterday with stablization of Hct to 28
   - q8 HCT checks
   - continue methylprednisolone 10 mg IV TID
   - GI following
   - continue TPN
   - GI surgery following
   Acute Blood loss: continues slow GI bleed as above; no evidence of
   additional souce of bleeding
   - active type and screen
   - q8 HCT checks
   DVT: Left femoral vein DVT and had been on coumadin.  INR elevated but
   trending down (1.6)
   - not currently anticoagulated
   - continue to hold coumadin
   - consider starting heparin
   - if persistent bleeding consider IVC filter
   NSCLC s/p resection/Hydropneumothorax:  Stable.  Appreciate throacics
   input; NTD at this time.
   - continue to monitor
   Stage II sacral/buttock decubitus:
   - continue TPN for nutrition
   - holding PO meds (vitamin C, zinc)
   - wound care
   CAD s/p MI:  frequent PVCs and tachycardia on telemetry.  Likely due to
   respiratory distress and anemia.
   - continue telemetry
   - holding aspirin
   - consider restarting beta blocker use if BP stable
   - statin held during this admission [**2-12**] low LDL, malnutrition
   Type II Diabetes:  37 units regular insulin in TPN; TID sliding scale
   Access: PICC line, 1 22 g IV
   Prophylaxis: Boots, protonix
   FEN: NPO as pt had witnessed aspiration event overnight.
   - reconsult speech and swallow
   - monitor electrolytes
   - continue TPN
   Code:  Full Code (discussed with patient).
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-9**] 05:41 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2146-12-10 10:37:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, respiratory distress, GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with ongoing tachypnea and acute respiratory alkalosis.
   Patient's oxygenation has been marginal. Anxiety persists. Given lasix
   without significant change.
   Has had maroon colored stool. Transfused 2 units of PRBC's. Hct up from
   23 to 28. Platelets trending downward.
   Day 3 of vanco and zosyn and pneumonia. Afebrile overnight.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-10**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2146-12-9**] 06:31 PM
   Pantoprazole (Protonix) - [**2146-12-10**] 08:00 AM
   Other medications:
   synthroid, atrovent, insulin, albuterol, tylenol, ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-10**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 104 (92 - 120) bpm
   BP: 157/98(100) {90/27(44) - 157/103(112)} mmHg
   RR: 27 (23 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,879 mL
                                                                  1,326 mL
   PO:
             TF:
   IVF:
                                                                  2,703 mL
                                                                    478 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                  3,890 mL
                                                                  1,205 mL
   Urine:
                                                                  3,890 mL
                                                                  1,205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.55/25/77.[**Numeric Identifier 143**]/24/0
   PaO2 / FiO2: 82
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant :
   Right lung, Dullness : Left base), (Breath Sounds: Clear : On right
   except for a few rhonchi at base, Bronchial: Left base; no egophony,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   87 K/uL
   115 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   40 mg/dL
   114 mEq/L
   143 mEq/L
   28.6 %
   5.8 K/uL
        [image002.jpg]
                            [**2146-12-8**]  03:58 AM
                            [**2146-12-8**]  04:05 AM
                            [**2146-12-8**]  01:52 PM
                            [**2146-12-8**]  08:48 PM
                            [**2146-12-9**]  03:15 AM
                            [**2146-12-9**]  04:42 AM
                            [**2146-12-9**]  03:19 PM
                            [**2146-12-9**]  08:23 PM
                            [**2146-12-9**]  10:31 PM
                            [**2146-12-10**]  03:40 AM
   WBC
   3.9
   4.5
   5.1
   5.8
   Hct
   28
   26.1
   24.6
   25.1
   22.7
   28.7
   28.4
   28.6
   Plt
   120
   105
   105
   87
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   24
   25
   23
   Glucose
   146
   108
   354
   115
   Other labs: PT / PTT / INR:17.7/31.3/1.6, CK / CKMB /
   Troponin-T:46/4/<0.01, Differential-Neuts:86.0 %, Band:7.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Ca++:6.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CT scan: significant diffuse emphysema. RUL and RLL patchy
   infiltrates. LLL atelectasis and effusion
   CXR today: patchy infiltrate at right base.
   Assessment and Plan
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   PNEUMONIA
   GI BLEED
   Patient on 60% mask with O2 sats at 94-95%. Tachypnea persists. CXR
   stable. Continues on antibiotics. Difficult to assess the degree to
   which anxiety may be contributing to his acute respiratory alkalosis.
   Attempt to ambulate to chair today.
   Hct has improved with transfusions. GI bleeding appears to have slowed.
   Maintain off of coumadin for now; start heparin - goal PTT 60.
   ICU Care
   Nutrition: NPO
   TPN w/ Lipids - [**2146-12-9**] 05:41 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-12-11 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2146-12-10**] 07:00 PM
 NON-INVASIVE VENTILATION - STOP [**2146-12-10**] 07:30 PM
 INVASIVE VENTILATION - START [**2146-12-10**] 07:30 PM
 BLOOD CULTURED - At [**2146-12-10**] 09:00 PM
 URINE CULTURE - At [**2146-12-10**] 09:00 PM
 SPUTUM CULTURE - At [**2146-12-11**] 02:16 AM
   - Heparin gtt started as patient's INR was sub- therapeutic and Hct was
   stable
   - Patient with marked tachypnea, increasing tachycardia, and delirium.
   He was intubated for hypoxic respiratory failure (PO2 = 65 on NRB).
   - Marked hypotension s/p intubation requiring levophed and fluids.
   - Meets ARDS criteria with PO2/FiO2 of 110 (60/0.6) -> started on
   ARDSnet protocol
   - transfused 2U for Hct of 21.9 from 28
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-10**] 09:00 PM
   Levofloxacin - [**2146-12-10**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-11**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-10**] 08:00 AM
   Lorazepam (Ativan) - [**2146-12-10**] 07:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-11**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 34.8
C (94.7
   HR: 88 (84 - 142) bpm
   BP: 91/53(67) {54/11(21) - 112/66(81)} mmHg
   RR: 29 (21 - 41) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,435 mL
                                                                  1,309 mL
   PO:
             TF:
   IVF:
                                                                  3,949 mL
                                                                    765 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    470 mL
   Urine:
                                                                  2,555 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,880 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 12 cmH2O
   SpO2: 93%
   ABG: 7.37/39/71/21/-2
   Ve: 14.4 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN:Intubated, sedated, not responsive, NAD
   HEENT:  MM mildly dry, OP with dried blood/? ulcerations, PERRL
   CV: RRR, s1/s2, no murmur
   PULM: Decreased BS at L base
   ABD: + bs, soft, nd
   EXT: 2+ radial, 1+ pedal pulses.  Trace LE edema
   Labs / Radiology
   58 K/uL
   7.3 g/dL
   187 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   45 mg/dL
   118 mEq/L
   144 mEq/L
   21.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2146-12-9**]  10:31 PM
                            [**2146-12-10**]  03:40 AM
                            [**2146-12-10**]  01:29 PM
                            [**2146-12-10**]  06:02 PM
                            [**2146-12-10**]  06:14 PM
                            [**2146-12-10**]  06:51 PM
                            [**2146-12-10**]  08:00 PM
                            [**2146-12-10**]  11:14 PM
                            [**2146-12-11**]  05:58 AM
                            [**2146-12-11**]  06:02 AM
   WBC
   5.8
   6.6
   Hct
   28.4
   28.6
   28.7
   32
   21.9
   Plt
   87
   58
   Cr
   0.7
   0.8
   0.5
   TropT
   0.02
   TCO2
   22
   21
   25
   23
   23
   Glucose
   115
   121
   138
   187
   Other labs: PT / PTT / INR:19.8/111.7/1.9, CK / CKMB /
   Troponin-T:62/4/0.02, Differential-Neuts:86.0 %, Band:7.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:6.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive  therapy, coronary artery disease
   and non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   ARDS: Patient now meets ARDS criteria with PO2/FiO2 of 110.  Intubated
   for hypoxic respiratory failure.  Has been treated with vanc/zosyn
   atypical coverage
   - ARDSnet protocol with low tidal volumes -> very difficult as patient
   has high minute ventilation and sedation causes him to be hypotensive
   - Try pressure support for now to see if this helps his MV
   - Wean levophed as tolerated
   - LR for boluses in setting of metabolic acidosis and hypernatremia.
   - Continue vanc/Zosyn (started [**2146-12-7**]) for HAP/Aspiration PNA
   - Add Levofloxacin
   - f/u blood, sputum, and urine Cxs
   - continue albuterol and ipratropium for known emphysema
   Anion-gap acidosis: Unclear etiology as gas last PM with normal
   lactate.  U/A yesterday without ketones
   - recheck lactate today
   - monitor lytes [**Hospital1 7**]
   Ulcerative Colitis c/b BRBPR/hematochezia: On Chronic immunosuppression
   without releif (now tapering per GI as it isn
t working).  - GI surgery
   following as patient likely needs colectomy but is not a surgical
   candidate now.Continues w/ bloody bowel movement with HCT drop in the
   setting of fluid resuscitation 28 -> 22, transfused 2 U this AM.
   - Q8 Hct checks
   - Active T&S, 2 large bore PIVs
   - continue methylprednisolone 10 mg IV TID
   - GI following
   - continue TPN
   DVT: Left femoral vein DVT and had been on coumadin.
   - continue to hold coumadin
   - Continue heparin gtt and monitor for signs of bleeding
   - if persistent bleeding consider IVC filter
   Thrombocytopenia: likely related to infection, but may be DIC.
   Unlikely HIT as he was on coumadin without SQ heparin prior to
   transfer, and just started on heparin yesterday
   - continue to monitor
   - transfuse if less than 10
   NSCLC s/p resection/Hydropneumothorax:  Stable.  Appreciate throacics
   input; NTD at this time.
   - continue to monitor
   Stage II sacral/buttock decubitus:
   - continue TPN for nutrition
   - wound care
   CAD s/p MI:  frequent PVCs and tachycardia on telemetry.  Likely due to
   respiratory distress and anemia.
   - continue telemetry
   - holding aspirin
   - consider restarting beta blocker use if BP stable
   - statin held during this admission [**2-12**] low LDL, malnutrition
   Type II Diabetes:  37 units regular insulin in TPN; TID sliding scale
   Access: PICC line, PIVs
   Prophylaxis: Boots, Heparin gtt, protonix
   FEN: NPO as pt had witnessed aspiration.
   - reconsult speech and swallow
   - monitor electrolytes
   - continue TPN
   Code:  Full Code (discussed with patient).
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-11**] 02:00 AM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   20 Gauge - [**2146-12-10**] 10:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2146-12-11 10:10:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, pneumonia,
   ARDS, anemia, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Levophed being slowly reduced. Fluid balance has been positive.
   Remains febrile.
   Oxygenation stable on 50% oxygen. Being ventilated with tidal volumes
   at 6-8 ml/kg per ARDSnet protocol, but patient attempting to take
   bigger tidal volumes.
   Platelets dropping.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2146-12-10**] 07:00 PM
 NON-INVASIVE VENTILATION - STOP [**2146-12-10**] 07:30 PM
 INVASIVE VENTILATION - START [**2146-12-10**] 07:30 PM
 BLOOD CULTURED - At [**2146-12-10**] 09:00 PM
 URINE CULTURE - At [**2146-12-10**] 09:00 PM
 SPUTUM CULTURE - At [**2146-12-11**] 02:16 AM
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2146-12-10**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-11**] 08:00 AM
   Vancomycin - [**2146-12-11**] 08:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2146-12-10**] 07:00 PM
   Pantoprazole (Protonix) - [**2146-12-11**] 08:13 AM
   Other medications:
   methylprednisolone, synthroid, insulin, protonix, heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-11**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: -15.2
C (4.7
   HR: 91 (84 - 142) bpm
   BP: 97/50(66) {54/11(21) - 112/66(81)} mmHg
   RR: 26 (21 - 41) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  5,435 mL
                                                                  1,996 mL
   PO:
           TF:
   IVF:
                                                                  3,949 mL
                                                                  1,190 mL
   Blood products:
   50 mL
   Total out:
                                                                  2,555 mL
                                                                    590 mL
   Urine:
                                                                  2,555 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,880 mL
                                                                  1,406 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 578 (578 - 578) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.37/39/71/21/-2
   Ve: 16.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Patient intubated and sedated. Continues to use accessory muscles of
   ventilation. Scleral edema. [**Last Name (un) **]. Chest clear anterior and laterally;
   good air movement. Cor: soft S3 at lower left sternal border. S1 and S2
   normal. No murmur. Abodmen with active bowel sounds. Soft. Non tender.
   Extremities warm and well perfused. 1+ edema bilaterally. Responds to
   noxious stimuli.
   Labs / Radiology
   7.3 g/dL
   58 K/uL
   187 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   45 mg/dL
   118 mEq/L
   144 mEq/L
   21.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2146-12-9**]  10:31 PM
                            [**2146-12-10**]  03:40 AM
                            [**2146-12-10**]  01:29 PM
                            [**2146-12-10**]  06:02 PM
                            [**2146-12-10**]  06:14 PM
                            [**2146-12-10**]  06:51 PM
                            [**2146-12-10**]  08:00 PM
                            [**2146-12-10**]  11:14 PM
                            [**2146-12-11**]  05:58 AM
                            [**2146-12-11**]  06:02 AM
   WBC
   5.8
   6.6
   Hct
   28.4
   28.6
   28.7
   32
   21.9
   Plt
   87
   58
   Cr
   0.7
   0.8
   0.5
   TropT
   0.02
   TCO2
   22
   21
   25
   23
   23
   Glucose
   115
   121
   138
   187
   Other labs: PT / PTT / INR:19.8/111.7/1.9, CK / CKMB /
   Troponin-T:62/4/0.02, Differential-Neuts:86.0 %, Band:7.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L at 8 PM, Albumin:1.7
   on [**12-7**], Ca++:6.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   CXR with bilateral alveolar infiltrates right greater than left. Not
   significantly changed from last night.
   Assessment and Plan
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE
 ANXIETY
   ARDS
   PNEUMONIA
   Patient continues to be hypotensive. Will restart stress dose steroids.
   Try to wean norepi. Appears to be volume repleted with resolution of
   tachycardia and good urine output. Continue broad spectrum antibiotics.
   Cultures unrevealing thus far.
   Patient continues to show evidence of high inspiratory drive. Has been
   fighting vent for bigger tidal volumes. Given blood pressure problems,
   I am loathe to further sedate him. With low pressures on vent when on
   assist control, I think we can allow him to be on PSV with tidal
   volumes of 600-650, which is what he seems to want. Will also pressure
   control ventilation to see if he will be more comfortable with that.
   Hct drifting down with fluids. With hx of GI bleed, will transfuse with
   2 units today.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-11**] 02:00 AM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   20 Gauge - [**2146-12-10**] 10:51 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 mins
   Patient is critically ill

2146-12-12 06:26:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - HCT dropped to 22 in AM.  Pt recieved 2U RBC and bumped
   appropriately.
   - D/c hep gtt
   - Started on stress dose steroids in the event his hypotension was
   related.  Was also thought to be possible treatment for non-infectious
   pulm process, as pt had failed to improve on abx.
   - Became tachycardic in the afternoon- responded to 1L saline.
   - Difficult to syncronize the patient to the vent, as he keeps
   overbreathing with high minute ventilation.  Lavage with ? clot.
   - Spoke with the patient's family and the patient was made DNR.
   - Had 2 BRBPR since midnight requiring 2U RBC; GI made aware
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-11**] 04:00 PM
   Vancomycin - [**2146-12-11**] 07:29 PM
   Levofloxacin - [**2146-12-11**] 07:29 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-11**] 08:13 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: nonverbal
   Flowsheet Data as of  [**2146-12-12**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 99 (87 - 119) bpm
   BP: 111/66(82) {83/46(57) - 123/71(87)} mmHg
   RR: 16 (16 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  5,833 mL
                                                                  1,185 mL
   PO:
           TF:
   IVF:
                                                                  3,207 mL
                                                                    237 mL
   Blood products:
                                                                    630 mL
                                                                    417 mL
   Total out:
                                                                  1,760 mL
                                                                    400 mL
   Urine:
                                                                  1,760 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,073 mL
                                                                    785 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 709 (555 - 709) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 12 cmH2O
   SpO2: 93%
   ABG: 7.34/44/67/19/-2
   Ve: 14.1 L/min
   PaO2 / FiO2: 112
   Physical Examination
   GEN:Intubated, sedated, not responsive, NAD
   HEENT:  MM mildly dry, , PERRL, no scleral icterus
   CV: RRR, s1/s2, no murmur
   PULM: Decreased BS at L base
   ABD: + bs, soft, nd
   EXT: 2+ radial, 1+ pedal pulses.  Trace LE edema
   Labs / Radiology CXR unchanged
   58 K/uL
   9.7 g/dL
   223 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   43 mg/dL
   119 mEq/L
   142 mEq/L
   27.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2146-12-10**]  08:00 PM
                            [**2146-12-10**]  11:14 PM
                            [**2146-12-11**]  05:58 AM
                            [**2146-12-11**]  06:02 AM
                            [**2146-12-11**]  10:33 AM
                            [**2146-12-11**]  02:30 PM
                            [**2146-12-11**]  08:40 PM
                             [**2146-12-12**]  12:23 AM
                             [**2146-12-12**]  05:50 AM
                             [**2146-12-12**]  05:55 AM
   WBC
   6.6
   9.3
   Hct
   21.9
   27.4
   24.6
   27.2
   Plt
   58
   Cr
   0.5
   0.5
   TCO2
   25
   23
   23
   23
   25
   25
   Glucose
   138
   187
   223
   Other labs: PT / PTT / INR:20.0/49.1/1.9, CK / CKMB /
   Troponin-T:62/4/0.02, Differential-Neuts:86.0 %, Band:7.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive  therapy, coronary artery disease
   and non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   ARDS: Patient now met ARDS criteria with PO2/FiO2 of 110. ? [**2-12**]
   aspiration pna.  Intubated for hypoxic respiratory failure.  Has been
   treated with vanc/zosyn
 no atypical coverage
   - ARDSnet protocol with low tidal volumes -> very difficult as patient
   has high minute ventilation and sedation causes him to be hypotensive
   - Continue PS ventilation for goal TV 6 cc/kg with goal to increase
   vent synchronization
   - Will consider bronchoscopy for samples - ? PCP
   [**Name Initial (PRE) **] Wean levophed as tolerated
   - LR for boluses in setting of metabolic acidosis and hypernatremia.
   - Continue vanc/Zosyn (started [**2146-12-7**]) for HAP/Aspiration PNA and
   Levofloxacin ([**12-10**])
   - f/u blood, sputum, and urine Cxs
   - continue albuterol and ipratropium for known emphysema
   Anion-gap acidosis: Unclear etiology as gas last PM with normal
   lactate.  U/A yesterday without ketones
   - recheck lactate today
   - monitor lytes [**Hospital1 7**]
   Hypotension
 On stress dose steroids Hydrocortisone. Ddx adrenal
   insufficiency vs hypovolemia.
   - Fluid bolus prn for hypotsn
   Ulcerative Colitis c/b BRBPR/hematochezia: On Chronic immunosuppression
   without releif (now tapering per GI as it isn
t working).  - GI surgery
   following as patient likely needs colectomy but is not a surgical
   candidate now.Continues w/ bloody bowel movement with HCT drop in the
   setting of fluid resuscitation 28 -> 22, transfused 4 u yesterday (2
   am, 2 o/n) and now Hct 27. Transitioned methylprednisolone to stress
   dosed steroids for hypotension. BP not significantly improved since
   stress dose steroids.
   - Continue to hold heparing gtt
   - Q8 Hct checks
   - Active T&S, 2 large bore PIVs
   - methylprednisolone 10 mg IV TID
 Hydrocortoisone
   - GI following
 consider sigmoidisocopy
   - Check plain film Abd
 upright and decub
   - continue TPN
   DVT: Left femoral vein DVT and had been on coumadin.
   - continue to hold coumadin
   - Hold hep gtt for GIB
   - if persistent bleeding consider IVC filter
   Thrombocytopenia: likely related to infection, but may be DIC.
   Unlikely HIT as he was on coumadin without SQ heparin prior to
   transfer, and just started on heparin yesterday
   - continue to monitor
   - transfuse if less than 10
   NSCLC s/p resection/Hydropneumothorax:  Stable.  Appreciate throacics
   input; NTD at this time.
   - continue to monitor
   Stage II sacral/buttock decubitus:
   - continue TPN for nutrition
   - wound care
   CAD s/p MI:  frequent PVCs and tachycardia on telemetry.  Likely due to
   respiratory distress and anemia.
   - continue telemetry
   - holding aspirin
   - consider restarting beta blocker use if BP stable
   - statin held during this admission [**2-12**] low LDL, malnutrition
   Type II Diabetes:  37 units regular insulin in TPN; TID sliding scale
   Access: PICC line, PIVs
   Prophylaxis: Boots, protonix, holding heparin given gib
   FEN: NPO as pt had witnessed aspiration.
   - reconsult speech and swallow
   - monitor electrolytes
   - continue TPN
   - tachycardia responded to 1 L NS bolus
   Code:  DNR
   Disposition: ICU care for now
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-12**] 01:30 AM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   20 Gauge - [**2146-12-10**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-12-12 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - BRBPR with decreasing Hct
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-11**] 04:00 PM
   Levofloxacin - [**2146-12-11**] 07:29 PM
   Vancomycin - [**2146-12-12**] 08:10 AM
   Piperacillin - [**2146-12-12**] 08:10 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-12**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-12**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 99 (89 - 119) bpm
   BP: 112/67(82) {89/51(66) - 123/71(87)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  5,842 mL
                                                                  2,188 mL
   PO:
           TF:
   IVF:
                                                                  3,216 mL
                                                                    652 mL
   Blood products:
                                                                    630 mL
                                                                    750 mL
   Total out:
                                                                  1,760 mL
                                                                    700 mL
   Urine:
                                                                  1,760 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,082 mL
                                                                  1,488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 709 (555 - 709) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 19 cmH2O
   SpO2: 92%
   ABG: 7.34/44/67/22/-2
   Ve: 14 L/min
   PaO2 / FiO2: 112
   Physical Examination
   General Appearance: No(t) No acute distress, Disynchronous
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.7 g/dL
   46 K/uL
   131 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   43 mg/dL
   121 mEq/L
   147 mEq/L
   27.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2146-12-10**]  08:00 PM
                            [**2146-12-10**]  11:14 PM
                            [**2146-12-11**]  05:58 AM
                            [**2146-12-11**]  06:02 AM
                            [**2146-12-11**]  10:33 AM
                            [**2146-12-11**]  02:30 PM
                            [**2146-12-11**]  08:40 PM
                             [**2146-12-12**]  12:23 AM
                             [**2146-12-12**]  05:50 AM
                             [**2146-12-12**]  05:55 AM
   WBC
   6.6
   9.3
   Hct
   21.9
   27.4
   24.6
   27.2
   Plt
   58
   46
   Cr
   0.5
   0.5
   0.5
   TCO2
   25
   23
   23
   23
   25
   25
   Glucose
   138
   187
   223
   131
   Other labs: PT / PTT / INR:15.2/32.4/1.3, CK / CKMB /
   Troponin-T:62/4/0.02, Differential-Neuts:86.0 %, Band:7.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, Ca++:6.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive  therapy, coronary artery disease
   and non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   Respiratory failure: Intubated for hypoxic respiratory failure, likely
   aspiration. On Vanc/zosyn/levo. Low airway pressures and good lung
   compliance not consistent with ARDS.
   -          Try PS today
 follow peak pressures
   -           continue albuterol and ipratropium for known emphysema
   BRBPR: s/p 4 units. GI input appreciated. Could be c/w acute ischemia
   will d/w GI
   -          Follow Hct
   -          Plan as per GI
 sigmoidoscopy?
   -          Active T&C
   Hypotension: Likely [**2-12**] septic shock, worsened by acute blood loss. On
   stress dose steroids for AI. Unclear source of infection
 no positive
   cultures.  Possibly due to aspiration pneumonia.
   -          Levophed for MAP > 55
   -          Stress dose steroids
   -          F/U cultures
   -          Will consider bronch tomorrow if not improving
   Ulcerative Colitis:  On Chronic immunosuppression without releif (now
   tapering per GI as it isn
t working).  - GI surgery following as
   patient likely needs colectomy but is not a surgical candidate now.
   BRBPR as per above.
   -          Continue TPN
   -          ABD X-ray
   DVT: Left femoral vein DVT and had been on coumadin.
          -       continue to hold coumadin
          -        Continue heparin gtt and monitor for signs of bleeding
          -        if persistent bleeding consider IVC filter
   Other issues per resident note
   Code:  DNR.
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-12**] 01:30 AM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Arterial Line - [**2146-12-10**] 08:21 AM
   20 Gauge - [**2146-12-10**] 10:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-12-13 06:42:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   - Off Heparin gtt
   - Levophed stopped at NOON
   - 4 episodes of melanotic stool since MN
   - Received 2 U PRBC am [**12-12**]
   - Hct 24.6 > 27.2 > 28 > 27.7 >25.9
   - Abd plain film - official read still PENDING
   - Vent changed in am rounds from CMV to PCV 25/7 satting in 90s (abg
   prior to change 7.34/44/67/25 > 7.34/45/75/25) and patient more in
   synch with vent
   - GI - did not perform sigmoidoscopy
   - P02 66 on am abg --> inc.d PEEP 7 to 10 (7.37/45/66/27)
   - Corrected ca 9.01
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2146-12-12**] 08:10 AM
   Vancomycin - [**2146-12-12**] 07:30 PM
   Levofloxacin - [**2146-12-12**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-13**] 12:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-12**] 08:30 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal
   Flowsheet Data as of  [**2146-12-13**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 97 (93 - 104) bpm
   BP: 104/54(69) {87/48(62) - 123/67(82)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  4,254 mL
                                                                    950 mL
   PO:
             TF:
   IVF:
                                                                  1,491 mL
                                                                    392 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,590 mL
                                                                    630 mL
   Urine:
                                                                  1,590 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,664 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 91%
   ABG: 7.37/45/66/25/0
   Ve: 11.4 L/min
   PaO2 / FiO2: 110
   Physical Examination
   GEN:Intubated, sedated, not responsive, NAD
   HEENT:  MM mildly dry, , PERRL, no scleral icterus
   CV: RRR, s1/s2, no murmur
   PULM: Decreased BS at L base
   ABD: + bs, soft, nd
   EXT: 2+ radial, 1+ pedal pulses.  Trace LE edema
   Labs / Radiology
   25 K/uL
   9.0 g/dL
   217 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.4 mEq/L
   39 mg/dL
   117 mEq/L
   146 mEq/L
   25.9 %
   5.7 K/uL
        [image002.jpg]
                            [**2146-12-11**]  02:30 PM
                            [**2146-12-11**]  08:40 PM
                             [**2146-12-12**]  12:23 AM
                             [**2146-12-12**]  05:50 AM
                             [**2146-12-12**]  05:55 AM
                             [**2146-12-12**]  12:48 PM
                             [**2146-12-12**]  02:32 PM
                             [**2146-12-12**]  07:43 PM
                             [**2146-12-13**]  02:07 AM
                             [**2146-12-13**]  05:34 AM
   WBC
   9.3
   5.7
   Hct
   27.4
   24.6
   27.2
   28.0
   27.7
   25.9
   Plt
   46
   25
   Cr
   0.5
   0.5
   0.4
   TCO2
   25
   25
   25
   27
   Glucose
   223
   131
   217
   Other labs: PT / PTT / INR:15.3/31.7/1.3, CK / CKMB /
   Troponin-T:62/4/0.02, Differential-Neuts:91.0 %, Band:9.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:1.1 g/dL,
   Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive  therapy, coronary artery disease
   and non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   Ulcerative Colitis c/b BRBPR/hematochezia: On Chronic immunosuppression
   without releif (now tapering per GI as it isn
t working).  - GI surgery
   following as patient likely needs colectomy but is not a surgical
   candidate now. 4 bloody bms since MN [**12-11**]. No bloody BM o/n and Hct
   stable but trending down.
   - Continue to hold heparing gtt
   - Q8 Hct checks
   - Active T&S, 2 large bore PIVs
   - GI following
 consider sigmoidisocopy
   - f/u final read Abd plain film [**12-11**]
   - continue TPN
   Hypotension: Likely [**2-12**] Hypovolemia in setting of GIB, but could also
   be [**2-12**] adrenal insufficiency.. Off levophed since 1400 [**12-11**]
   - Continue stress dose steroids
   - Bolus NS prn
   ARDS: Patient now met ARDS criteria with PO2/FiO2 of 110. ? [**2-12**]
   aspiration pna.  Intubated for hypoxic respiratory failure.  Has been
   treated with vanc/zosyn
 no atypical coverage. More compliant with
   ventilator since on Pressure control ventilation, but remains somewhat
   hypoxic. PEEP increased from 7 to 10 in am.  Given bilateral
   infiltrates on CXR and long standing steroid use, there is some concern
   for PCP as well.
   - Continue PS ventilation for goal TV 6 cc/kg with goal to increase
   vent synchronization
   - Will consider bronchoscopy for samples to r/o PCP
   [**Name Initial (PRE) **] LR for boluses in setting of metabolic acidosis and hypernatremia.
   - Continue vanc/Zosyn (started [**2146-12-7**]) for HAP/Aspiration PNA and
   Levofloxacin ([**12-10**])
   - f/u blood, sputum, and urine Cxs
   - continue albuterol and ipratropium for known emphysema
   Anion-gap acidosis: Unclear etiology as gas last PM with normal
   lactate.  U/A 2 d.ago without ketones. Acidosis now resolving.
   - follow lactate
   - monitor lytes [**Hospital1 7**]
   DVT: Left femoral vein DVT and had been on coumadin.
   - continue to hold coumadin
   - Hold hep gtt for GIB
   - if persistent bleeding consider IVC filter
   Thrombocytopenia: likely related to infection, but may be DIC.
   Unlikely HIT as he was on coumadin without SQ heparin prior to
   transfer, and just started on heparin yesterday
   - continue to monitor
   - transfuse if less than 10
   NSCLC s/p resection/Hydropneumothorax:  Stable.  Appreciate throacics
   input; NTD at this time.
   - continue to monitor
   Stage II sacral/buttock decubitus:
   - continue TPN for nutrition
   - wound care
   CAD s/p MI:  frequent PVCs and tachycardia on telemetry.  Likely due to
   respiratory distress and anemia.
   - continue telemetry
   - holding aspirin
   - consider restarting beta blocker use if BP stable
   - statin held during this admission [**2-12**] low LDL, malnutrition
   Type II Diabetes:  37 units regular insulin in TPN; TID sliding scale
   Access: PICC line, PIVs
   Prophylaxis: Boots, protonix, holding heparin given gib
   FEN: NPO as pt had witnessed aspiration.
   - reconsult speech and swallow
   - monitor electrolytes
   - continue TPN
   - tachycardia responded to 1 L NS bolus
   Code:  DNR
   Communication: [**Name (NI) 447**] [**Name (NI) 4054**] (HCP) [**Telephone/Fax (1) 4055**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-13**] 01:22 AM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Arterial Line - [**2146-12-10**] 08:21 AM
   20 Gauge - [**2146-12-10**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Addendum
 d/c foley given low grade temperatures.
   Consider transfer to floor in pm
   ------ Protected Section ------
   Ignore previous addednum.
   Plan for brochoscopy later on and IVC filter. Restart heparing gtt
   without bolus in interim for DVT. TTE to asess cardiac fx. Lasix with
   goal negative 1 L. Antifungal for aspergillus in sputum.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4058**], MD
   on:[**2146-12-13**] 11:03 ------

2146-12-13 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2146-12-12**] 08:10 AM
   Levofloxacin - [**2146-12-12**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-13**] 07:44 AM
   Vancomycin - [**2146-12-13**] 08:44 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-12**] 08:30 PM
   Other medications:
   Vanc/Zosyn/hydyrocortisone - see med list for complete med list
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-13**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 104 (93 - 104) bpm
   BP: 101/62(76) {87/48(62) - 113/62(78)} mmHg
   RR: 13 (10 - 18) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  4,254 mL
                                                                  1,653 mL
   PO:
             TF:
   IVF:
                                                                  1,491 mL
                                                                    816 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,590 mL
                                                                    875 mL
   Urine:
                                                                  1,590 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,664 mL
                                                                    778 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 91%
   ABG: 7.31/53/67/25/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 112
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   25 K/uL
   217 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   39 mg/dL
   117 mEq/L
   146 mEq/L
   27.8 %
   5.7 K/uL
        [image002.jpg]
                             [**2146-12-12**]  12:23 AM
                             [**2146-12-12**]  05:50 AM
                             [**2146-12-12**]  05:55 AM
                             [**2146-12-12**]  12:48 PM
                             [**2146-12-12**]  02:32 PM
                             [**2146-12-12**]  07:43 PM
                             [**2146-12-13**]  02:07 AM
                             [**2146-12-13**]  05:34 AM
                             [**2146-12-13**]  07:46 AM
                             [**2146-12-13**]  07:53 AM
   WBC
   9.3
   5.7
   Hct
   24.6
   27.2
   28.0
   27.7
   25.9
   27.8
   Plt
   46
   25
   Cr
   0.5
   0.4
   TCO2
   25
   25
   27
   28
   Glucose
   131
   217
   Other labs: PT / PTT / INR:15.3/31.7/1.3, CK / CKMB /
   Troponin-T:62/4/0.02, Differential-Neuts:91.0 %, Band:9.0 %, Lymph:0.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:1.1 g/dL,
   Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   A:
   1) Respiratory Failure
   - Likely aspiration pneumonia/ARDS and some component of pulmonary
   edema
   Plan:
   - ECHO
   - Bronchoscopy
   - Continue broad-spectrum antibiotics
   - Begin diuresis as BP now improved
   2) GI bleeding
   - Monitor hct
   3) DVT
   - Place IVC filter today
   - will use heparin without bolus until that is in place
   4) ICU
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-13**] 01:22 AM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Arterial Line - [**2146-12-10**] 08:21 AM
   20 Gauge - [**2146-12-10**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  35 minutes

2146-12-14 06:51:00 Physician Resident Progress Note
Chief Complaint: N/V
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2146-12-13**] 01:56 PM
 ANGIOGRAPHY - At [**2146-12-13**] 04:49 PM
   IVC filter placed
 BRONCHOSCOPY - At [**2146-12-13**] 05:52 PM
   - ECHO showed Left Ventric Syst Dysf, 2+ Tricuspid Regurg.
   - ET tube advanced
   - Bronchoscopy done, dilute crimson fluid sent to lab
   - Started Caspofungin one time load dose of 70mg. In subsequent days,
   should be 50mg.
   - IVC filter placed, (was prepped with platlets per IR)
   - Getting d5W to support Sodium
   - Stopped Heparin (suspecting HIT, antibody PND), started Agatroban
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2146-12-12**] 08:10 AM
   Caspofungin - [**2146-12-13**] 11:07 AM
   Vancomycin - [**2146-12-13**] 08:35 PM
   Levofloxacin - [**2146-12-13**] 09:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-14**] 12:38 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Argatroban - 2.25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-13**] 08:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2146-12-14**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 94 (86 - 104) bpm
   BP: 108/61(75) {94/55(23) - 120/69(88)} mmHg
   RR: 19 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  4,438 mL
                                                                  1,274 mL
   PO:
           TF:
   IVF:
                                                                  2,180 mL
                                                                    386 mL
   Blood products:
                                                                    258 mL
                                                                    320 mL
   Total out:
                                                                  1,935 mL
                                                                    400 mL
   Urine:
                                                                  1,935 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,503 mL
                                                                    874 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 25 cmH2O
   SpO2: 93%
   ABG: 7.48/35/68/27/2
   Ve: 16.4 L/min
   PaO2 / FiO2: 97
   Physical Examination
   GEN:Intubated, sedated, not responsive, NAD
   HEENT:  MM mildly dry, , PERRL, no scleral icterus
   CV: RRR, s1/s2, no murmur
   PULM: Decreased BS at L base
   ABD: + bs, soft, nd
   EXT: 2+ radial, 1+ pedal pulses.  Trace LE edema
   Labs / Radiology
   20 K/uL
   8.9 g/dL
   163 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   39 mg/dL
   115 mEq/L
   144 mEq/L
   26.1 %
   5.3 K/uL
        [image002.jpg]
                             [**2146-12-12**]  02:32 PM
                             [**2146-12-12**]  07:43 PM
                             [**2146-12-13**]  02:07 AM
                             [**2146-12-13**]  05:34 AM
                             [**2146-12-13**]  07:46 AM
                             [**2146-12-13**]  07:53 AM
                             [**2146-12-13**]  01:56 PM
                             [**2146-12-13**]  09:26 PM
                             [**2146-12-14**]  03:53 AM
                             [**2146-12-14**]  06:27 AM
   WBC
   5.7
   5.7
   5.3
   Hct
   27.7
   25.9
   27.8
   29.3
   24.6
   26.1
   Plt
   25
   30
   20
   Cr
   0.4
   0.4
   TCO2
   25
   27
   28
   27
   Glucose
   217
   163
   Other labs: PT / PTT / INR:22.8/69.3/2.2, CK / CKMB /
   Troponin-T:62/4/0.02, Alk Phos / T Bili:/0.5, Differential-Neuts:91.0
   %, Band:9.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:261
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:1.2 g/dL, Ca++:6.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3957**] is a 74 year old male with a history of ulcerative colitis
   now on prolonged immunosuppressive  therapy, coronary artery disease
   and non-small cell lung cancer s/p VATs and left upper lobectomy in
   [**2146-11-4**] who is transferred to the ICU for increasing oxygen
   requirements and tacypnea.
   Ulcerative Colitis c/b BRBPR/hematochezia: On Chronic immunosuppression
   without releif (now tapering per GI as it isn
t working).  - GI surgery
   following as patient likely needs colectomy but is not a surgical
   candidate now. 4 bloody bms since MN [**12-11**]. No bloody BM o/n and Hct
   stable but trending down.
   - Continue to hold heparing gtt
   - Q8 Hct checks
   - Active T&S, 2 large bore PIVs
   - GI following
 consider sigmoidisocopy
   - f/u final read Abd plain film [**12-11**]
   - continue TPN
   Hypotension: Likely [**2-12**] Hypovolemia in setting of GIB, but could also
   be [**2-12**] adrenal insufficiency.. Off levophed since 1400 [**12-11**]
   - Continue stress dose steroids
   - Bolus NS prn
   ARDS: Patient now met ARDS criteria with PO2/FiO2 of 110. ? [**2-12**]
   aspiration pna.  Intubated for hypoxic respiratory failure.  Has been
   treated with vanc/zosyn
 no atypical coverage. More compliant with
   ventilator since on Pressure control ventilation, but remains somewhat
   hypoxic. PEEP increased from 7 to 10 in am.  Given bilateral
   infiltrates on CXR and long standing steroid use, there is some concern
   for PCP as well.
   - Continue PS ventilation for goal TV 6 cc/kg with goal to increase
   vent synchronization
   - Will consider bronchoscopy for samples to r/o PCP
   [**Name Initial (PRE) **] LR for boluses in setting of metabolic acidosis and hypernatremia.
   - Continue vanc/Zosyn (started [**2146-12-7**]) for HAP/Aspiration PNA and
   Levofloxacin ([**12-10**])
   - f/u blood, sputum, and urine Cxs
   - continue albuterol and ipratropium for known emphysema
   Anion-gap acidosis: Unclear etiology as gas last PM with normal
   lactate.  U/A 2 d.ago without ketones. Acidosis now resolving.
   - follow lactate
   - monitor lytes [**Hospital1 7**]
   DVT: Left femoral vein DVT and had been on coumadin.
   - continue to hold coumadin
   - Hold hep gtt for GIB
   - if persistent bleeding consider IVC filter
   Thrombocytopenia: likely related to infection, but may be DIC.
   Unlikely HIT as he was on coumadin without SQ heparin prior to
   transfer, and just started on heparin yesterday
   - continue to monitor
   - transfuse if less than 10
   NSCLC s/p resection/Hydropneumothorax:  Stable.  Appreciate throacics
   input; NTD at this time.
   - continue to monitor
   Stage II sacral/buttock decubitus:
   - continue TPN for nutrition
   - wound care
   CAD s/p MI:  frequent PVCs and tachycardia on telemetry.  Likely due to
   respiratory distress and anemia.
   - continue telemetry
   - holding aspirin
   - consider restarting beta blocker use if BP stable
   - statin held during this admission [**2-12**] low LDL, malnutrition
   Type II Diabetes:  37 units regular insulin in TPN; TID sliding scale
   Access: PICC line, PIVs
   Prophylaxis: Boots, protonix, holding heparin given gib
   FEN: NPO as pt had witnessed aspiration.
   - reconsult speech and swallow
   - monitor electrolytes
   - continue TPN
   - tachycardia responded to 1 L NS bolus
   Code:  DNR
   Communication: [**Name (NI) 447**] [**Name (NI) 4054**] (HCP) [**Telephone/Fax (1) 4055**]
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-13**] 05:56 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Arterial Line - [**2146-12-10**] 08:21 AM
   20 Gauge - [**2146-12-10**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2146-12-14 12:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   IVC filter placed and on agatroban,
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2146-12-13**] 01:56 PM
 ANGIOGRAPHY - At [**2146-12-13**] 04:49 PM
   IVC filter placed
 BRONCHOSCOPY - At [**2146-12-13**] 05:52 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2146-12-12**] 08:10 AM
   Caspofungin - [**2146-12-13**] 11:07 AM
   Vancomycin - [**2146-12-13**] 08:35 PM
   Levofloxacin - [**2146-12-13**] 09:35 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-12-14**] 12:38 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Argatroban - 2.25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-13**] 08:00 PM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-14**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 89 (86 - 104) bpm
   BP: 102/60(75) {94/55(23) - 123/69(88)} mmHg
   RR: 22 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  4,438 mL
                                                                  1,815 mL
   PO:
           TF:
   IVF:
                                                                  2,180 mL
                                                                    527 mL
   Blood products:
                                                                    258 mL
                                                                    320 mL
   Total out:
                                                                  1,935 mL
                                                                    630 mL
   Urine:
                                                                  1,935 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,503 mL
                                                                  1,185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 93%
   ABG: 7.48/35/68/27/2
   Ve: 16.8 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   20 K/uL
   163 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   39 mg/dL
   115 mEq/L
   144 mEq/L
   24.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2146-12-12**]  07:43 PM
                             [**2146-12-13**]  02:07 AM
                             [**2146-12-13**]  05:34 AM
                             [**2146-12-13**]  07:46 AM
                             [**2146-12-13**]  07:53 AM
                             [**2146-12-13**]  01:56 PM
                             [**2146-12-13**]  09:26 PM
                             [**2146-12-14**]  03:53 AM
                             [**2146-12-14**]  06:27 AM
                             [**2146-12-14**]  09:48 AM
   WBC
   5.7
   5.7
   5.3
   Hct
   27.7
   25.9
   27.8
   29.3
   24.6
   26.1
   24.6
   Plt
   25
   30
   20
   Cr
   0.4
   0.4
   TCO2
   27
   28
   27
   Glucose
   217
   163
   Other labs: PT / PTT / INR:22.8/69.3/2.2, CK / CKMB /
   Troponin-T:62/4/0.02, Alk Phos / T Bili:/0.5, Differential-Neuts:91.0
   %, Band:9.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:261
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:1.2 g/dL, Ca++:6.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ULCERATIVE COLITIS
 DELIRIUM / CONFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANXIETY
   1)       Respiratory Failure:
   -          pneumonia/ARDS/
   Plan:
   -          Continue PC ventilation
   -          Diuresis
   2)       DVT
   -          on aggatroban
   -          Heme
   3)       Anemia
   -          transfuse to keep 25%
   4)       Colitis
   5)       CAD
   6)       FEN: TPN
   7)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-12-13**] 05:56 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2146-12-7**] 07:24 PM
   Arterial Line - [**2146-12-10**] 08:21 AM
   20 Gauge - [**2146-12-10**] 10:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: